US06462198B1
Diphenylacetyl-carbamic acid 4-phenyl-butyl ester
The title compound, light yellow solid, m.p.=118° C. and MS: m/e=387.5 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 4-phenyl-butan-1-ol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 4-phenyl-butan-1-ol | C1(=CC=CC=C1)CCCCO | C10H14O
product | Diphenylacetyl-carbamic acid 4-phenyl-butyl ester | C1(=CC=CC=C1)CCCCOC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H25NO3
